US09227967B2
1-(4-Chlorophenyl)-3-(oxan-4-yl)-1H-pyrazolo[4,3-d]pyrimidine
Intermediate 102 (500 mg, 2.21 mmol) and (4-chlorophenyl)hydrazine hydrochloride (434 mg, 2.43 mmol) were dissolved in EtOH (10 mL) and AcOH (2 mL), and stirred for 18 h. The solvents were removed in vacuo and the residue was dissolved in DCM (50 mL) and washed with sat aq Na2CO3 (50 mL). The aqueous layer was extracted with DCM (50 mL) and the combined organic fractions were dried (MgSO4) and concentrated in vacuo. The residue was dissolved in DMF (10 mL) and Et3N (922 μL, 6.62 mmol) was added. The reaction mixture was heated using a microwave at 150° C. for 30 min. The solvents were removed in vacuo and the residue was purified by normal phase column chromatography to give the title compound as a white solid (137 mg, 20%). HRMS (ESI+) calcd for C16H15ClN4O, 315.1007. found 315.1011. HPLC (method B): Rf 4.45 min, 100% purity.

reactant | (4-chlorophenyl)hydrazine hydrochloride | 2.43 mmol, 434 mg | Cl.ClC1=CC=C(C=C1)NN
reactant | Et3N | 6.62 mmol, 922 μL | CCN(CC)CC | C6H15N
reactant | EtOH | 10 mL | CCO | C2H6O
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 1-(4-Chlorophenyl)-3-(oxan-4-yl)-1H-pyrazolo[4,3-d]pyrimidine | 137 mg, 20% | ClC1=CC=C(C=C1)N1N=C(C=2N=CN=CC21)C2CCOCC2 | C16H15ClN4O
